2169-10-18 09:16:00 Physician Attending Progress Note
Chief Complaint: respiratory failure.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   39 yo man with C5 paraplegia, admitted with lethargy, seizures,
   respiratory failure.
   24 Hour Events:
 EKG - At [**2169-10-17**] 08:59 AM
 BLOOD CULTURED - At [**2169-10-17**] 10:10 AM
 BLOOD CULTURED - At [**2169-10-17**] 01:10 PM
 INVASIVE VENTILATION - START [**2169-10-17**] 03:30 PM
 MAGNETIC RESONANCE IMAGING - At [**2169-10-18**] 02:00 AM
 FEVER - 101.6
F - [**2169-10-17**] 08:00 AM
   Allergies:
   Ampicillin
   Rash;
   Ancef (Intraven.) (Cefazolin Sodium)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2169-10-17**] 09:30 PM
   Aztreonam - [**2169-10-18**] 04:30 AM
   Infusions:
   Other ICU medications:
   Propofol - [**2169-10-17**] 04:30 PM
   Dilantin - [**2169-10-18**] 03:00 AM
   Other medications:
   keppra
   chlorhexidine
   simvastatin
   sertraline
   bacitracin
   asa
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-10-18**] 09:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.7
C (98.1
   HR: 65 (30 - 79) bpm
   BP: 154/82(100) {88/43(54) - 154/90(105)} mmHg
   RR: 17 (0 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  2,175 mL
                                                                    626 mL
   PO:
             TF:
   IVF:
                                                                  2,175 mL
                                                                    626 mL
   Blood products:
   Total out:
                                                                  2,085 mL
                                                                    280 mL
   Urine:
                                                                  1,285 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     90 mL
                                                                    346 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 30
   PIP: 28 cmH2O
   Plateau: 19 cmH2O
   Compliance: 34.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.33/60/265/25/4
   Ve: 7.9 L/min
   PaO2 / FiO2: 530
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Bronchial: right base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.4 g/dL
   113 K/uL
   73 mg/dL
   1.5 mg/dL
   25 mEq/L
   4.4 mEq/L
   35 mg/dL
   111 mEq/L
   147 mEq/L
   22.8 %
   3.1 K/uL
        [image002.jpg]
                            [**2169-10-17**]  09:32 AM
                            [**2169-10-17**]  09:42 AM
                            [**2169-10-17**]  09:59 AM
                            [**2169-10-17**]  11:26 PM
                            [**2169-10-18**]  04:05 AM
   WBC
   4.4
   3.9
   3.1
   Hct
   17.9
   26
   21.9
   22.8
   Plt
   152
   108
   113
   Cr
   1.8
   1.5
   1.5
   TropT
   0.25
   0.22
   TCO2
   33
   Glucose
   77
   73
   117
   73
   Other labs: PT / PTT / INR:11.9/30.2/1.0, CK / CKMB /
   Troponin-T:130/4/0.22, Lactic Acid:0.9 mmol/L, Albumin:3.6 g/dL,
   Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Fluid analysis / Other labs: CSF:
   1 WBC
   1 RBC
   Assessment and Plan
 BRADYCARDIA
 SEIZURE, WITH STATUS EPILEPTICUS
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**]):  CXR with evidence of RLL
   PNA likely from aspiration.  Continue Vanco and aztreonam, can reduce
   to PNA doses. Add flagyl for
   aspiration PNA.
   Will lighten sedation and try to extubate today.
   Seizure and fever:  can reduce dose of antibiotics as meningitis
   unlikely given 1 WBC on CSF.  MRI results pending.  Continue dilantin
   and keppra
   hypernatremia:  Give D5W
   Bradycardia:  has been chronic likely related to spinal cord injury.
   C5 paraplegia
   chronic foley
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2169-10-17**] 08:54 AM
   18 Gauge - [**2169-10-17**] 10:21 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2169-10-19 07:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Altered mental status
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2169-10-18**] 11:38 AM
   Allergies:
   Ampicillin
   Rash;
   Ancef (Intraven.) (Cefazolin Sodium)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2169-10-18**] 08:31 PM
   Metronidazole - [**2169-10-18**] 11:55 PM
   Aztreonam - [**2169-10-19**] 05:03 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2169-10-18**] 08:31 PM
   Dilantin - [**2169-10-18**] 11:33 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-10-19**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35
C (95
   HR: 45 (41 - 78) bpm
   BP: 90/42(55) {90/42(55) - 154/89(103)} mmHg
   RR: 12 (10 - 18) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 68 Inch
             Total In:
                                                                  2,756 mL
                                                                    119 mL
   PO:
             TF:
   IVF:
                                                                  2,756 mL
                                                                    119 mL
   Blood products:
   Total out:
                                                                  1,050 mL
                                                                  1,770 mL
   Urine:
                                                                  1,050 mL
                                                                  1,770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,706 mL
                                                                 -1,651 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: PSV/SBT
   Vt (Set): 480 (480 - 480) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 12
   PEEP: 0 cmH2O
   FiO2: 70%
   PIP: 28 cmH2O
   Plateau: 19 cmH2O
   SpO2: 96%
   ABG: ///25/
   Ve: 7.9 L/min
   Physical Examination
   Alert and oriented. Following commands and answering questions.  Clear
   to ausculatation b/l.  NRRR no murmurs.  NTND normal BS.  Trace edema
   in lower extremities.  4+/5 strength in UE
   Labs / Radiology
   149 K/uL
   7.3 g/dL
   68 mg/dL
   1.4 mg/dL
   25 mEq/L
   4.1 mEq/L
   30 mg/dL
   112 mEq/L
   147 mEq/L
   23.0 %
   2.2 K/uL
        [image002.jpg]
                            [**2169-10-17**]  09:32 AM
                            [**2169-10-17**]  09:42 AM
                            [**2169-10-17**]  09:59 AM
                            [**2169-10-17**]  11:26 PM
                            [**2169-10-18**]  04:05 AM
                            [**2169-10-19**]  05:11 AM
   WBC
   4.4
   3.9
   3.1
   2.2
   Hct
   17.9
   26
   21.9
   22.8
   23.0
   Plt
   152
   108
   113
   149
   Cr
   1.8
   1.5
   1.5
   1.4
   TropT
   0.25
   0.22
   TCO2
   33
   Glucose
   77
   73
   117
   73
   68
   Other labs: PT / PTT / INR:11.9/30.2/1.0, CK / CKMB /
   Troponin-T:130/4/0.22, Lactic Acid:0.9 mmol/L, Albumin:3.4 g/dL,
   Ca++:8.6 mg/dL, Mg++:1.8 mg/dL, PO4:3.5 mg/dL Dilantin: 8.1 Albumin:
   3.4
   Imaging: [**2169-10-18**] CXR
   IMPRESSION: AP chest compared to
   Previous mild pulmonary edema has resolved. Opacification in the right
   lower lung and accompanied downward displacement of the hilus indicates
   that previous area of consolidation has now collapsed. Pulmonary edema
   has resolved since [**10-17**]. Consolidation in the left lower lobe
   has worsened
   since [**10-13**] and could be another region of atelectasis or
   pneumonia.  The upper lungs are now clear. Heart size is normal.
   Pleural effusion, if any, is minimal. ET tube is in standard placement.
   Dr. [**First Name4 (NamePattern1) 1520**] [**Last Name (NamePattern1) 9525**] has been
   paged.
   Microbiology: [**2169-10-18**] 11:21 am SPUTUM     Site: ENDOTRACHEAL   GRAM
   STAIN (Final [**2169-10-18**]):       >25 PMNs and <10 epithelial cells/100X
   field.     1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
   SINGLY AND IN PAIRS.
   [**2169-10-15**] 12:53 pm SPUTUM      Source: Expectorated.
   GRAM STAIN (Final [**2169-10-15**]):
         >25 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI       IN PAIRS
   AND CLUSTERS.
         1+    (<1 per 1000X FIELD):   MULTIPLE ORGANISMS CONSISTENT
   WITH   OROPHARYNGEAL FLORA.
         1+    (<1 per 1000X FIELD):   YEAST(S).
   Assessment and Plan
   Assessment and Plan: 39 year old male with a history of C5
   quadriplegia, myelodysplastic syndrome and recurrent urinary tract
   infections initially admitted for altered mental status and weakness
   now transferred to the MICU after two generalized tonic clonic seizures
   on the floor with associated hypoxia and worsening mental status.
   .
   #Seizures/AMS:  Patient now with two generalized tonic-clonic seizures
   since admission on [**2169-10-14**] after being seizure free since [**2169-2-22**].
   His last tonic-clonic seizure was in [**2162**]. Per notes he was taking
   Keppra 1000 mg [**Hospital1 **] at the time of admission. Most concerning etiology
   of increased seizure frequency would be infection.  Although there was
   initially concern for intraventricular hemorrhage on repeat CT scan
   this was more consistent with calcification. He has had a recent
   urinary tract infection for which he received a 7-day course of
   appropriate antibiotic therapy.  Urine and blood cultures have been
   negative thus far. He has evidence of multifocal pneumonia on CXR.
   Sputum cultures grew gm (+) cocci.  EEG is concerning for temporal
   slowing concerning for epileptiform activity.    Looking at patient's
   antibiotic regimen, meropenem is highly associated with decreasing
   seizure threshold and would ideally discontinue this medication.  DFA
   negative.  IR performed LP which looks non-infectious.
   - send cdiff sample this morning, was not sent yesterday.
   - neuro recs: continue keppra 1000mg [**Hospital1 **];  change to IV until
   tolerating po again. Continue dilantin in the short term, consider
   weaning off prior to discharge when acute illness resolved.  Would give
   additional 300mg bolus x1 as he never reached a level above 9.
   Continue maintenance dose of 100mg tid.  Check another trough level in
   the morning (ordered).
   - dilantin 100 mg IV Q8H; change in dosing according to neuron; level
   was low, so need to adjust dosing
   - will continue keppra 1000 mg IV BID
   - f/u MRI; still pending this morning
   - continue vancomycin,aztreonam, and flagyl for HAP and aspiration
   pneumonia
   .
   #Hypoxia/Pneumonia:  Patient with evidence of multifocal pneumonia on
   admission XRAY with increased secretions. Initially he was hypothermic,
   then low grade fevers, now hypothermic again.  Most likely due to
   hospital acquired pneumonia. Obstructive sleep apnea is also likely
   contributing to hypoxia as patient with episodes of apnea and hypoxia
   when lying flat.
   - vancomycin, aztreonam, and flagyl  for coverage of hospital acquired
   pneumonia/ aspiration pneumonia
   - Flagyl started [**10-18**]
   .
   #Bradycardia: Patient states that he feels light-headed, but does not
   complain of chest pain or shortness of breath when bradycardic.  He had
   a temp of 95.6 and was warmed with bear hugger.  Had an EKG which
   showed sinus bradycardia with lateral STD which are old.  Electrolytes,
   coags, cardiac enzymes were drawn.  Cardiac enzymes were elevated, but
   this seems to be his baseline.  Records of EKG
s and d/c summaries show
   that he has these events and cardiology has been consulted in the
   past.  No invasive measures were taken.
   - consult cardiology when patient improves (?pacemaker; although
   concern for infection d/t recurrent UTIs)
   - continue to keep warm and monitor labs
   - atropine at bedside
   .
   # Elevated troponin: Patient found to have trop of 0.25 when having
   bradycardic event.  According to records, this seems to be his
   baseline.  Could be related to renal dysfunction.  Has had cardiology
   consulted in the past and no interventions were recommended.
   Regardless, repeated test this am (0.22), ASA given, EKG repeated.
   - discontinue aspirin (given thrombocytopenia)
   - cardiology consult, as above
   .
   #C5 spinal cord injury:
   - continue Baclofen pump, in place
   - PT consult
   .
   #Depression:
   - on home Zoloft
   - Social work consult because worsening depression since new seizures
   .
   #Chronic Kidney Disease:  Baseline Creatinine 1.5-1.7.  Currently at
   1.8 with elevated BUN.  History of chronic obstruction.
   - gentle hydration
   - monitor urine output
   - renally dose medications
   - trend creatinine
   .
   #Hypernatremia: Could be due to dehydration in the setting of sepsis.
   - D5W boluses today; 500 ml q4 hours
   - Follow-up Na this afternoon.
   .
   # Question- hemorrhage on CT scan:  On repeat CT scan here, area of
   concern appeared more consistent with calcification.
   - will better define on MRI scan
 f/u
   .
   #Myelodysplastic Syndrome:  Currently blood counts are within his
   baseline.
   - trend blood counts
   .
   FEN: D5W boluses d/t hypernatremia, replete electrolytes, diet can be
   advanced
   Prophylaxis: SC heparin
   Access: peripherals
   Code:  Full (discussed with patient)
   Communication: Patient, Mother( HCP) [**Telephone/Fax (1) 9476**]; Brother [**Name (NI) **]
   [**Telephone/Fax (1) 9477**]
   Disposition: pending clinical improvement

2169-10-19 12:09:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   39 yo man with paraplegia, admitted with seizures, respiratory
   failure.  Extubated yesterday. Doing well.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2169-10-18**] 11:38 AM
   Allergies:
   Ampicillin
   Rash;
   Ancef (Intraven.) (Cefazolin Sodium)
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2169-10-18**] 11:55 PM
   Aztreonam - [**2169-10-19**] 05:03 AM
   Vancomycin - [**2169-10-19**] 08:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2169-10-19**] 08:00 AM
   Dilantin - [**2169-10-19**] 08:00 AM
   Other medications:
   keppra
   simvastatin
   sertraline
   bacitracin
   vanco
   aztreonam
   flagyl
   dilantin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-10-19**] 12:09 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.4
C (95.8
   HR: 40 (40 - 60) bpm
   BP: 90/67(73) {89/42(55) - 137/72(86)} mmHg
   RR: 8 (8 - 18) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  2,756 mL
                                                                    569 mL
   PO:
             TF:
   IVF:
                                                                  2,756 mL
                                                                    569 mL
   Blood products:
   Total out:
                                                                  1,050 mL
                                                                  2,040 mL
   Urine:
                                                                  1,050 mL
                                                                  2,040 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,706 mL
                                                                 -1,471 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.3 g/dL
   149 K/uL
   68 mg/dL
   1.4 mg/dL
   25 mEq/L
   4.1 mEq/L
   30 mg/dL
   112 mEq/L
   147 mEq/L
   23.0 %
   2.2 K/uL
        [image002.jpg]
                            [**2169-10-17**]  09:32 AM
                            [**2169-10-17**]  09:42 AM
                            [**2169-10-17**]  09:59 AM
                            [**2169-10-17**]  11:26 PM
                            [**2169-10-18**]  04:05 AM
                            [**2169-10-19**]  05:11 AM
   WBC
   4.4
   3.9
   3.1
   2.2
   Hct
   17.9
   26
   21.9
   22.8
   23.0
   Plt
   152
   108
   113
   149
   Cr
   1.8
   1.5
   1.5
   1.4
   TropT
   0.25
   0.22
   TCO2
   33
   Glucose
   77
   73
   117
   73
   68
   Other labs: PT / PTT / INR:11.9/30.2/1.0, CK / CKMB /
   Troponin-T:130/4/0.22, Lactic Acid:0.9 mmol/L, Albumin:3.4 g/dL,
   Ca++:8.6 mg/dL, Mg++:1.8 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 BRADYCARDIA
 SEIZURE, WITH STATUS EPILEPTICUS
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   Much improved.  Awake alert.  Feels almost back to normal.
   Will get OOB to chair.
   PT consult
   Continue keppra and dliantin
   Await MRI results
   Continue vanco/aztreonam/flagyl for aspiration PNA.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2169-10-17**] 08:54 AM
   18 Gauge - [**2169-10-17**] 10:21 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes